US09079922B2
1-cyclopropyl-8-methoxy-4-oxo-7-(3-{[(R)-2-oxo-3-(3-oxo-3,4-dihydro-2H-benzo[1,4]thiazin-6-yl)-oxazolidin-5-ylmethyl]-amino}-azetidin-1-yl)-1,4-dihydro-quinoline-3-carboxylic acid
The title compound was prepared in analogy to Example 2, starting from 1-cyclopropyl-7-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid anhydride with boric acid (1:1) and with acetic acid (1:2) (101 mg; prepared according to WO 2010/056633) and 6-[(5R)-5-[(3-azetidinylamino)-methyl]-2-oxo-3-oxazolidinyl]-2H-1,4-benzothiazin-3(4H)-one (prepared according to WO 2008/126034; 167 mg). At the end of the reaction, the reaction mixture was concentrated under reduced pressure and the residue was taken up in MeOH and treated with 1N HCl in MeOH (3 ml) for 15 min. The reaction mixture was diluted with water (2 ml) and the solid was filtered off. The org. phase was concentrated under reduced pressure and purified by CC (DCM/MeOH 9:1 followed by DCM/MeOH 9:1+1% AcOH), affording after evaporation and stirring of the residue with MeOH/TBME a beige solid.

reactant | 1-cyclopropyl-7-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid anhydride | C1(CC1)N1C=C(C(C2=CC=C(C(=C12)OC)F)=O)C(=O)OC(=O)C1=CN(C2=C(C(=CC=C2C1=O)F)OC)C1CC1 | C28H22F2N2O7
reactant | boric acid | B(O)(O)O | BH3O3
reactant | 6-[(5R)-5-[(3-azetidinylamino)-methyl]-2-oxo-3-oxazolidinyl]-2H-1,4-benzothiazin-3(4H)-one | 167 mg | N1CC(C1)NC[C@@H]1CN(C(O1)=O)C=1C=CC2=C(NC(CS2)=O)C1 | C15H18N4O3S
solvent | acetic acid | 101 mg | C(C)(=O)O | C2H4O2
product | 1-cyclopropyl-8-methoxy-4-oxo-7-(3-{[(R)-2-oxo-3-(3-oxo-3,4-dihydro-2H-benzo[1,4]thiazin-6-yl)-oxazolidin-5-ylmethyl]-amino}-azetidin-1-yl)-1,4-dihydro-quinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC=C(C(=C12)OC)N1CC(C1)NC[C@@H]1CN(C(O1)=O)C=1C=CC2=C(NC(CS2)=O)C1)=O)C(=O)O | C29H29N5O7S
